Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
AS, presyncope

 
Major Surgical or Invasive Procedure:
___ Aortic valve replacement with a 21 ___
pericardial tissue valve, serial number ___, other number
is ___.

 
History of Present Illness:
___ year old Male seen yesterday,
___ for an initial consultation by ___. He reports
feeling lightheadedness and headaches increasing in frequency 
and
severity. Per patient he had an MRI at ___ a
couple of months ago as part of work up for his headaches and
dizziness which was normal. Rencntly he was found to have SBP<90
and his flomax was stopped a couple of weeks ago. He denies hx 
of
HTN, Cholesterol, DM. Reports long standing murmur. He presents
to ___ Cardiology for TTE today and reports severe
dizziness. It revealed critical AS. ___ was transferred
to ___ for further evaluation of surgical correction with AVR.

 
Past Medical History:
AS
PMH: GERD, Depression
PSH: tonsillectomy 
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Pulse:80 Resp:14  O2 sat:100% on RA
B/P  Right:98/53    Left:
___   Weight:175 LB

General:very anxious
Skin: Dry [x] intact [x]
HEENT: PERRL [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur [x] grade ___ 
systolic______
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds
+[x]
Extremities: Warm [x], well-perfused [x] No Edema [] _____
Varicosities: None [x]
Neuro: Grossly intact [x]
Pulses:
Femoral      Right:2+   Left:2+
DP           Right:1+   Left:1+
___           Right: 1+  Left:1+
Radial       Right:1+   Left:1+

Carotid Bruit        Right:transmitted murmur    
Left:transmitted
murmur

 
Pertinent Results:
___ 07:05AM BLOOD WBC-7.9 RBC-3.29* Hgb-9.5* Hct-27.2* 
MCV-83 MCH-28.8 MCHC-34.9 RDW-16.9* Plt ___
___ 02:56AM BLOOD WBC-11.8* RBC-3.45* Hgb-9.6* Hct-27.7* 
MCV-80* MCH-27.8 MCHC-34.5 RDW-16.6* Plt ___
___ 01:30AM BLOOD ___ PTT-25.7 ___
___ 03:22AM BLOOD ___ PTT-25.3 ___
___ 02:09AM BLOOD ___ PTT-28.1 ___
___ 07:05AM BLOOD Glucose-102* UreaN-21* Creat-0.7 Na-132* 
K-4.4 Cl-97 HCO3-25 AnGap-14
___ 01:30AM BLOOD Glucose-108* UreaN-16 Creat-0.7 Na-135 
K-4.2 Cl-97 HCO3-26 AnGap-16
___ 12:10PM BLOOD Glucose-136* UreaN-19 Creat-0.8 Na-130* 
K-4.1 Cl-96
___ 07:21PM BLOOD ALT-28 AST-32 AlkPhos-79 Amylase-29 
TotBili-0.3
 
Brief Hospital Course:
The patient was brought to the Operating Room on ___ where 
the patient underwent AVR with ___.  Overall the patient 
tolerated the procedure well and post-operatively was 
transferred to the CVICU in stable condition for recovery and 
invasive monitoring.  
POD 1 found the patient extubated, alert and oriented and 
breathing comfortably.  The patient was neurologically intact.  
He remained in the ICU on Neo.  He developed AFib.  He initially 
converted to SR with Amiodarone, however, AFib returned and he 
was started on coumadin.   Beta blocker was initiated and the 
patient was gently diuresed toward the preoperative weight.  He 
required a lasix drip for pulmonary edema.  The patient was 
transferred to the telemetry floor for further recovery.  Chest 
tubes and pacing wires were discontinued without complication.  
The patient was evaluated by the physical therapy service for 
assistance with strength and mobility.  By the time of discharge 
on POD 6 the patient was ambulating freely, the wound was 
healing and pain was controlled with oral analgesics.  The 
patient was discharged to ___ in good condition 
with appropriate follow up instructions.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Escitalopram Oxalate 10 mg PO DAILY 
2. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1. Escitalopram Oxalate 10 mg PO DAILY 
2. Omeprazole 20 mg PO DAILY 
3. Amiodarone 400 mg PO BID 
___ bid x 7 days, then 400mg daily x 7 days, then 200mg daily 
4. Aspirin EC 81 mg PO DAILY 
5. Furosemide 20 mg PO DAILY Duration: 5 Days 
6. Meclizine 12.5 mg PO TID 
7. Metoprolol Tartrate 12.5 mg PO BID 
8. Potassium Chloride 20 mEq PO DAILY Duration: 5 Days 
9. TraMADOL (Ultram) 50 mg PO Q4H:PRN pain 
RX *tramadol 50 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*40 Tablet Refills:*0
10. TraZODone 25 mg PO QHS:PRN insomnia 
RX *trazodone 50 mg 0.5 (One half) tablet(s) by mouth at bedtime 
Disp #*20 Tablet Refills:*0
11. ___  MD to order daily dose PO DAILY16 postop AFib 
dose to change daily for goal INR ___, dx: AFib 

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
 
Discharge Diagnosis:
AS
PMH:
Gerd, depression, systolic murmur, chronic
constipation
Past Surgical ___ s/p open choleycystectomy, s/p
septoplasty, s/p tonsillectomy

 
Discharge Condition:
Alert and oriented x3 nonfocal
Ambulating, gait steady
Sternal pain managed with oral analgesics
Sternal Incision - healing well, no erythema or drainage
Edema trace

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming, and look at your incisions
Please NO lotions, cream, powder, or ointments to incisions
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___